* c:\users\subhradip\esim-workspace\mips1\mips1.cir

* u3  clk net-_u1-pad1_ adc_bridge_1
* u4  net-_u1-pad17_ out dac_bridge_1
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 50n 200n)
* u5  out plot_v1
* u2  clk plot_v1
* u6  net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ r3 r2 r1 r0 dac_bridge_4
* u8  r3 plot_v1
* u10  r2 plot_v1
* u9  r1 plot_v1
* u7  r0 plot_v1
* u11  net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ o15 o14 o13 o12 o11 o10 o9 dac_bridge_7
* u12  net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ o8 o7 o6 o5 o4 o3 o2 o1 dac_bridge_8
* u13  o15 plot_v1
* u15  o14 plot_v1
* u17  o13 plot_v1
* u19  o12 plot_v1
* u14  o11 plot_v1
* u16  o10 plot_v1
* u18  o9 plot_v1
* u20  o8 plot_v1
* u22  o7 plot_v1
* u24  o6 plot_v1
* u26  o5 plot_v1
* u21  o4 plot_v1
* u23  o3 plot_v1
* u25  o2 plot_v1
* u27  o1 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ connector1
a1 [clk ] [net-_u1-pad1_ ] u3
a2 [net-_u1-pad17_ ] [out ] u4
a3 [net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ ] [r3 r2 r1 r0 ] u6
a4 [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [o15 o14 o13 o12 o11 o10 o9 ] u11
a5 [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [o8 o7 o6 o5 o4 o3 o2 o1 ] u12
a6 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ ] [net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_7, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             connector1, NgSpice Name: connector1
.model u1 connector1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 30e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out) v(clk)+10 v(r3)+20 v(r2)+30 v(r1)+40 v(r0)+50 v(o15)+60 v(o14)+70 v(o13)+80 v(o12)+90 v(o11)+100 v(o10)+110 v(o9)+110 v(o8)+120 v(o7)+130 v(o6)+140 v(o5)+150 v(o4)+160 v(o3)+170 v(o2)+180 v(o1)+190
.endc
.end
